US08026234B2
Compound 96: 4-(9-Cyclohexyl-7-ethyl-7-fluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylpiperidin-4-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7-ethyl-7-fluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and. 1-methylpiperidin-4-amine. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.89 (t, J=7.4 Hz, 3H) 1.08-2.06 (m, 16H) 2.20 (s, 3H) 2.82 (d, J=11.1 Hz, 2H) 3.25 (s, 4H) 3.60-3.85 (m, 3H) 3.95 (s, 3H) 4.49 (m, 1H) 7.47 (d, J=8.3 Hz, 1H) 7.50 (s, 1H) 7.77 (s, 1H) 8.01-8.19 (m, 2H) 8.31 (d, J=8.3 Hz, 1H). [M+H] calc'd for C30H42FN7O3, 568. found 568.

reactant | 4-(9-cyclohexyl-7-ethyl-7-fluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)CC)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C24H30FN5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-methylpiperidin-4-amine | CN1CCC(CC1)N | C6H14N2
product | 4-(9-Cyclohexyl-7-ethyl-7-fluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylpiperidin-4-yl)benzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)CC)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C30H42FN7O3
